US07423030B2
43.3. 1-Chloro-4-(4-methoxyphenyl)-6-methylphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 4-(4-methoxyphenyl)-6-methyl-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 4-(4-methoxyphenyl)-6-methyl-2H-phthalazin-1-one | COC1=CC=C(C=C1)C1=NNC(C2=CC=C(C=C12)C)=O | C16H14N2O2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-4-(4-methoxyphenyl)-6-methylphthalazine | ClC1=NN=C(C2=CC(=CC=C12)C)C1=CC=C(C=C1)OC | C16H13ClN2O
